US05677326
An 84 g portion of ethyl 4,5,6,7-tetrahydrobenzimidazole-5-carboxylate was dissolved in 350 ml of 6N hydrochloric acid and heated under reflux for 2 hours. The reaction solution was concentrated under reduced pressure, and 200 ml of acetone was added to the residue and the precipitated crystals were collected by filtration and dried to obtain 69 g of 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid hydro-chloride. A 54 g portion of this 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid hydrochloride was mixed in 75 ml of thionyl chloride and heated under reflux for one hour. The reaction solution was concentrated, and the resultant mixture was added with stirring under ice cooling to 500 ml of a chloroform solution which contained 50 g indoline and 38 ml triethylamine. After stirring the mixture at room temperature overnight, it was washed with 300 ml of a 2N aqueous sodium hydroxide solution and then dried and concentrated. Ethyl acetate was added to the residue to precipitate crystals which were collected by filtration to obtain 71 g of 5-(2,3-dihydroindol-1-yl) carbonyl-4,5,6,7-tetrahydrobenzimidazole.

reactant | ethyl 4,5,6,7-tetrahydrobenzimidazole-5-carboxylate | N1=CNC2=C1CCC(C2)C(=O)OCC | C10H14N2O2
reactant | hydrochloric acid | 6N, 350 ml | Cl | ClH
product | 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid hydro-chloride | 69 g | Cl.N1=CNC2=C1CCC(C2)C(=O)O | InChI=1S/C8H10N2O2.ClH/c11-8(12)5-1-2-6-7(3-5)10-4-9-6;/h4-5H,1-3H2,(H,9,10)(H,11,12);1H
